US06504046B1
1.06 g (0.01 mole) of triethylamine and 0.85 g (0.01 mole) of magnesium chloride were added, at room temperature, to a solution of 0.85 g (0.005 mole) of monopotassium ethyl malonate dissolved in 10 ml of acetonitrile, followed by stirring. Thereto was added 1.1 g (0.005 mole) of 2-phenyl-4-isopropyl-4-methyl-1,3-oxazol-5-one. The mixture was stirred at 60° C. for 8 hours to give rise to a reaction. After the completion of the reaction, the reaction mixture was cooled. Thereto were added 50 ml of water and diluted hydrochloric acid to adjust the mixture to a pH of 4 or less. The mixture was subjected to extraction with ethyl acetate. The organic layer was washed with a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, then dried over anhydrous sodium sulfate, and concentrated. The concentrate was subjected to separation by column chromatography to obtain 0.4 g (0.00131 mole) of ethyl 4,5-dimethyl-3-oxo-4-(benzoylamino)hexanoate (yield=26%).

reactant | triethylamine | 0.01 mole, 1.06 g | C(C)N(CC)CC | C6H15N
reactant | magnesium chloride | 0.01 mole, 0.85 g | [Cl-].[Mg+2].[Cl-]
reactant | monopotassium ethyl malonate | 0.005 mole, 0.85 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | 2-phenyl-4-isopropyl-4-methyl-1,3-oxazol-5-one | 0.005 mole, 1.1 g | C1(=CC=CC=C1)C=1OC(C(N1)(C)C(C)C)=O | C13H15NO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
product | ethyl 4,5-dimethyl-3-oxo-4-(benzoylamino)hexanoate | 0.00131 mole, 0.4 g, yield=26% | CC(C(CC(=O)OCC)=O)(C(C)C)NC(C1=CC=CC=C1)=O | C17H23NO4
